US09388189B2
a) 3-(2-Methoxy-4-nitrophenoxy)-N, N-dimethyl propan-1-amine
3-(Dimethylamino)propan-1-ol (1 g, 10.6 mmol) was dissolved in dimethylsulfoxide (20 ml) and sodium hydride (0.42 g, 10.5 mmol) was added. After stirring at room temperature for 15 min, 1-chloro-2-methoxy-4-nitrobenzene (1 g, 5.3 mmol) in dimethylsulfoxide (10 ml) was added and the reaction mixture stirred 4 h at room temperature. The reaction mixture was diluted with water, extracted with ethyl acetate, and the organic phase dried over magnesium sulphate and filtered. After evaporation of the solvent, the residue was purified by flash chromatography using SP1® Purification System (0% to 85%, ethyl acetate-methanol) to obtain 480 mg (34% yield) of the title compound as an oil.

reactant | 3-(Dimethylamino)propan-1-ol | 10.6 mmol, 1 g | CN(CCCO)C | C5H13NO
reactant | sodium hydride | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | 1-chloro-2-methoxy-4-nitrobenzene | 5.3 mmol, 1 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-(2-Methoxy-4-nitrophenoxy)-N, N-dimethyl propan-1-amine | 480 mg, 34% yield | COC1=C(OCCCN(C)C)C=CC(=C1)[N+](=O)[O-] | C12H18N2O4
